US07105507B2
1,1-Dimethylethyl N-(1,1-Dimethylethyl)-N-(2-oxoethyl)carbamate
Diisobutylaluminium hydride (1M in toluene, 3.7 mL, 3.7 mmol) was added to a stirred, cooled (−78° C.) solution of N-[(1,1-dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine methyl ester (Description 158, 900 mg, 3.7 mmol) in toluene (5 mL) and the mixture was stirred at −78° C. for 3 hours. Hydrochloric acid (1M, 5 mL) was added and the mixture was allowed to warm to room temperature. The mixture was extracted with ethyl acetate (2×40 mL) and the combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless oil (688 mg, 86%). 1H NMR (400 MHz, CDCl3) δ 1.39 (9H, s), 1.45 (9H, s), 4.01 (2H, s), and 9.54 (1H, s).

reactant | Diisobutylaluminium hydride | 3.7 mmol, 1M, 3.7 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | N-[(1,1-dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine methyl ester | 3.7 mmol, 900 mg | COC(CN(C(C)(C)C)C(=O)OC(C)(C)C)=O | C12H23NO4
reactant | Hydrochloric acid | 1M, 5 mL | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-Dimethylethyl N-(1,1-Dimethylethyl)-N-(2-oxoethyl)carbamate | 688 mg, 86% | CC(C)(C)N(C(OC(C)(C)C)=O)CC=O | C11H21NO3
